US07939528B2
A flask containing 1,1-dimethylethyl (5-bromo-2,3-dihydro-1H-inden-2-yl)carbamate (3.0 g, 9.26 mmol) from the preceding step, diphenylphosphinoferrocene (645 mg, 1.16 mmol), Pd2 dba3 (532 mg, 0.58 mmol), zinc cyanide (1.50 g, 12.8 mmol) and water in 50 mL dimethylformamide was degassed four times under nitrogen and allowed to stir at 110° C. for 21 hours. Upon cooling the reaction was quenched with saturated NH4Cl and the organics were taken up in ethyl acetate. The organic layer was washed with water (3×), sat. NaCl and dried over MgSO4. The solvent was removed in vacuo and the residual orange-yellow oil was purified by silica gel column chromatography (15-40% ethyl acetate/hexanes) yielding 1.85 g (7.18 mmol, 78% yield) of the 1,1-dimethylethyl (5-cyano-2,3-dihydro-1H-inden-2-yl)carbamate as an off-white solid. 1H NMR (400 MHz, CDCl3) delta 7.47 (s, 1H), 7.45 (d, 1H, J=7.9 Hz), 7.28 (d, 1H, J=7.7 Hz), 4.69 (br.s), 1H), 4.47 (s(br), 1H), 3.33-3.25 (m, 2H), 2.86-2.80 (m, 2H), 2.79 (s, 9H) ppm. (M+1) 259.1, 2.46 min (LC/MS method A).

reactant | 1,1-dimethylethyl (5-bromo-2,3-dihydro-1H-inden-2-yl)carbamate | 9.26 mmol, 3.0 g | BrC=1C=C2CC(CC2=CC1)NC(OC(C)(C)C)=O | C14H18BrNO2
reactant | water | O | H2O
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | diphenylphosphinoferrocene | 1.16 mmol, 645 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
catalyst | Pd2 dba3 | 0.58 mmol, 532 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 12.8 mmol, 1.50 g | [C-]#N.[Zn+2].[C-]#N
product | 1,1-dimethylethyl (5-cyano-2,3-dihydro-1H-inden-2-yl)carbamate | 7.18 mmol, 1.85 g, 78% yield | C(#N)C=1C=C2CC(CC2=CC1)NC(OC(C)(C)C)=O | C15H18N2O2
